US04762829
N-(3,7,11,15-Tetramethyl-2,6,10,14-hexadecatetraenoyl)-diethanolamine
The procedure of Example 1 was repeated except that 6.1 g of 3,7,11,15-tetramethyl-2,6,10,14-hexadecatetraenoic acid and 2.9 ml of diethanolamine were used as starting materials. 7.0 g (yield 90%) of the title compound was obtained as a colorless oil.

reactant | 3,7,11,15-tetramethyl-2,6,10,14-hexadecatetraenoic acid | 6.1 g | CC(=CC(=O)O)CCC=C(CCC=C(CCC=C(C)C)C)C | C20H32O2
reactant | diethanolamine | 2.9 ml | N(CCO)CCO | C4H11NO2
product | N-(3,7,11,15-Tetramethyl-2,6,10,14-hexadecatetraenoyl)-diethanolamine | 7.0 g, yield 90% | CC(=CC(=O)N(CCO)CCO)CCC=C(CCC=C(CCC=C(C)C)C)C | C24H41NO3
